US07576215B2
3-[3-(3-BENZYL-8-CHLOROQUINOLIN-4-YL)PHENOXY]-5-BROMOBENZONITRILE
3-(3-benzyl-8-chloroquinolin-4-yl)phenol (0.100 g, 0.289 mmol) was taken into NMP (1 mL) and to this was added NaH (0.0127 g, 0.318 mmol, 60% dispersion in oil) and stirred for 15 minutes. 3-Bromo-5-fluorobenzonitrile (0.116 g, 0.578 mmol) was added and the reaction was heated at 160° C. overnight. The reaction was cooled and quenched with water followed by extraction with ether. After drying and concentration the product was purified via Prep HPLC using 10-100% v acetonitrile in water as the eluent to yield 0.028 g of product. MS (ESI) m/z 526 ([M+H])+.

reactant | 3-(3-benzyl-8-chloroquinolin-4-yl)phenol | 0.289 mmol, 0.100 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)Cl | C22H16ClNO
reactant | NaH | 0.318 mmol, 0.0127 g | [H-].[Na+]
reactant | 3-Bromo-5-fluorobenzonitrile | 0.578 mmol, 0.116 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 3-[3-(3-BENZYL-8-CHLOROQUINOLIN-4-YL)PHENOXY]-5-BROMOBENZONITRILE | 0.028 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC=2C=C(C#N)C=C(C2)Br)C=CC1)Cl | C29H18BrClN2O
